US06281356B1
3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-thiazol-2-yl-1H-indol-3-yl)pyrrole-2,5-dione (25 mg, 23%) was prepared from 3-(6-bromo-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione (108 mg, 0.25 mmol) and 2-(tributylstannyl)thioazole (140 mg, 0.375 mmol).

reactant | 3-(6-bromo-1-methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 0.25 mmol, 108 mg | BrC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H16BrN3O2
reactant | 2-(tributylstannyl)thioazole | 0.375 mmol, 140 mg | C(CCC)[Sn](SC=1NC=CC1)(CCCC)CCCC
product | 3-(1-Methyl-1H-indol-3-yl)-4-(1-methyl-6-thiazol-2-yl-1H-indol-3-yl)pyrrole-2,5-dione | 25 mg, 23% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)C=1SC=CN1)C)=O)=O | C25H18N4O2S
